US07435751B2
Step 5: (S)-[3-(7-Fluoro-2-oxo-1-propyl-2,3-dihydro-1H-indol-5-yl)-2-oxo-oxazolidin-5-ylmethyl]-carbamic acid tert-butyl ester
Phosgene (20% solution in toluene, 0.770 ml, 7.86 mmol) is added to (R)-[3-(7-fluoro-2-oxo-1-propyl-2,3-dihydro-1H-indol-5-ylamino)-2-hydroxy-propyl]-carbamic acid tert-butyl ester (0.400 g, 1.05 mmol) and triethylamine (0.726 ml, 5.24 mmol) in dichloromethane (5 ml) at 0° C. and stirred for 30 minutes. The mixture is diluted with dichloromethane, washed with water and brine, dried (Na2SO4) and evaporated to give the title compound as a dark yellow solid. HPLC r.t. 5.28 min; MS for C20H26FN3O5 m/z 408.1 (M+H)+.

reactant | Phosgene | 7.86 mmol, 0.770 ml | C(=O)(Cl)Cl | CCl2O
reactant | (R)-[3-(7-fluoro-2-oxo-1-propyl-2,3-dihydro-1H-indol-5-ylamino)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | 1.05 mmol, 0.400 g | C(C)(C)(C)OC(NC[C@@H](CNC=1C=C2CC(N(C2=C(C1)F)CCC)=O)O)=O | C19H28FN3O4
reactant | triethylamine | 5.24 mmol, 0.726 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-[3-(7-Fluoro-2-oxo-1-propyl-2,3-dihydro-1H-indol-5-yl)-2-oxo-oxazolidin-5-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@H]1CN(C(O1)=O)C=1C=C2CC(N(C2=C(C1)F)CCC)=O)=O | C20H26FN3O5
